US06063782
Methyl 3-formyl-4,5-dimethyl-1-(2-propenyl)pyrrole-2-carboxylate
The title compound was prepared as a yellow solid in 95.1% yeild in a similar procedure to that described in Referential Example 9 by using methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and 3-bromo-1-propene.

reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | 3-bromo-1-propene | BrCC=C | C3H5Br
product | Methyl 3-formyl-4,5-dimethyl-1-(2-propenyl)pyrrole-2-carboxylate | C(=O)C1=C(N(C(=C1C)C)CC=C)C(=O)OC | C12H15NO3
